US08217064B2
To a stirred solution of ethyl 1-(4-nitro-3-(2,2,2-trifluoroethoxy)phenyl)cyclopentane carboxylate (10 g), in dry MeOH (100 mL) Pd(OH)2 (2 g) was added and reduced under an atmosphere of H2 for 6 h at room temperature. The mixture was filtered through a pad of Celite™ washing with MeOH. The combined filtrates were concentrated under reduced pressure to yield ethyl 1-(4-amino-3-(2,2,2-trifluoroethoxy)phenyl)cyclopentanecarboxylate (7.5 g ) as a thick liquid.

reactant | ethyl 1-(4-nitro-3-(2,2,2-trifluoroethoxy)phenyl)cyclopentane carboxylate | 10 g | [N+](=O)([O-])C1=C(C=C(C=C1)C1(CCCC1)C(=O)OCC)OCC(F)(F)F | C16H18F3NO5
solvent | MeOH | 100 mL, 2 g | CO | CH4O
product | ethyl 1-(4-amino-3-(2,2,2-trifluoroethoxy)phenyl)cyclopentanecarboxylate | 7.5 g | NC1=C(C=C(C=C1)C1(CCCC1)C(=O)OCC)OCC(F)(F)F | C16H20F3NO3
